US07101980B2
MDEA-BSA conjugate 36 was synthesized as described in copending, commonly assigned U.S. Ser. No. 10/622,254 filed contemporaneously herewith. A solution of 500 mg of bovine serum albumin (BSA) in 6.7 mL of 50 mM potassium phosphate (pH 7.5) was cooled in an ice-bath. To the solution was added 8.5 mL of DM50 dropwise, and the reaction mixture was maintained below room temperature. To the protein solution was added a solution of 12 mg (0.022 mmol) of N-(5-{2-[ethyl-(2,2,2-trifluoro-acetyl)-amino]-propyl}-benzo[1,3]dioxol-2-ylmethyl)-succinamic acid 2,5-dioxo-pyrrolidin-1-yl ester (compound 2L in U.S. Ser. No. 10/622,254) in 1.5 mL of anhydrous DMF dropwise. The reaction mixture was allowed to stir at room temperature 48 hours. The resulting conjugate was placed in a dialysis tube (10,000 MW cut-off) and was dialyzed in 1 L of 70% DMSO in 50 mM potassium phosphate (pH 7.5, 3 changes, at least 3 hours each), 1 L of 50% DMSO in 50 mM potassium phosphate (at least 3 hours), 1 L of 30% DMSO in 50 mM potassium phosphate (at least 3 hours), 1 L of 10% DMSO in 50 mM potassium phosphate (at least 3 hours) at room temperature. The trifluoroacetamido group of the conjugate was deprotected by dialysis of the resulting conjugate against 10% ammonium hydroxide for 3 days (1 L each for approximately 24 hours each), followed by 6 changes with 50 mM potassium phosphate (pH 7.5) at 4° C. (1 L each). The protein concentration was determined to be 7.12 mg/mL using BioRad Coomassie blue protein assay (Bradford, M., Anal. Biochem. 72:248, 1976). A total of 45 mL of the conjugate was obtained.

reactant | N-(5-{2-[ethyl-(2,2,2-trifluoro-acetyl)-amino]-propyl}-benzo[1,3]dioxol-2-ylmethyl)-succinamic acid 2,5-dioxo-pyrrolidin-1-yl ester | 0.022 mmol, 12 mg | O=C1N(C(CC1)=O)OC(CCC(=O)NCC1OC2=C(O1)C=CC(=C2)CC(C)N(C(C(F)(F)F)=O)CC)=O | C23H26F3N3O8
solvent | potassium phosphate | 50 mM, 6.7 mL, pH 7.5 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | MDEA | CCNC(C)CC1=CC2=C(C=C1)OCO2 | C12H17NO2
